US06794537B1
A process for manufacturing L-Se-methylselenocysteine by reaction of chloroalanine methyl ester hydrochloride or chloroalanine hydrochloride or chloroalanine with methylselenol or its salts in a solvent, acidifying the reaction mixture after completion of reaction, isolating methyselenocysteine hydrochloride as a methanol solution, neutralizing the methanol solution with triethyl amine to precipitate L-Se-methylselenocysteine.

reactant | L-Se-methylselenocysteine | C[Se]C[C@@H](C(=O)O)N | C4H9NO2Se
reactant | chloroalanine methyl ester hydrochloride | Cl.COC([C@@H](NCl)C)=O
reactant | chloroalanine hydrochloride | Cl.ClN[C@@H](C)C(=O)O
reactant | chloroalanine | ClN[C@@H](C)C(=O)O | C3H6ClNO2
reactant | methylselenol | C[Se] | CH3Se
solvent | methanol | CO | CH4O
product | methyselenocysteine hydrochloride | Cl.CN[C@@H](C[SeH])C(=O)O | InChI=1S/C4H9NO2Se.ClH/c1-5-3(2-8)4(6)7;/h3,5,8H,2H2,1H3,(H,6,7);1H/t3-;/m0./s1
